US07772285B2
10.85 g of methyl 3-bromo-4-(bromomethyl)benzoate was dissolved in 108 mL of N,N-dimethylformamide, to which 3.46 g of potassium acetate was added at room temperature, and this solution was stirred for 17.5 hours at the same temperature. The reaction mixture was added to a mixture of water and ethyl acetate, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=10:1] to yield 6.43 g of methyl 4-[(acetyloxy)methyl]-3-bromobenzoate as white solid.

reactant | methyl 3-bromo-4-(bromomethyl)benzoate | 10.85 g | BrC=1C=C(C(=O)OC)C=CC1CBr | C9H8Br2O2
reactant | potassium acetate | 3.46 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 108 mL | CN(C=O)C | C3H7NO
product | methyl 4-[(acetyloxy)methyl]-3-bromobenzoate | 6.43 g | C(C)(=O)OCC1=C(C=C(C(=O)OC)C=C1)Br | C11H11BrO4
